US04777267
Synthesis of 4-phenylthiomethyl-1,3-dioxol-2-one:
In 30 ml of dichloromethane was dissolved 1.0 g of 4-bromomethyl-1,3-dioxol-2-one, and 0.7 g of benzenethiol was added. Then, 0.6 g of triethylamine was added, and the mixture was stirred at room temperature for 1 hour. After the reaction, the solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate. The isoluble materials were separated by filtration, and the residue was evaporated under reduced pressure. The residue was subjected to medium-pressure silica gel column chromatography as in Example 1 except that the column was eluted with a mixture of chloroform and n-hexane (2/1, v/v). The eluate was concentrated under reduced pressure to give 0.7 g of the captioned compound as a colorless liquid.

reactant | 4-bromomethyl-1,3-dioxol-2-one | 1.0 g | BrCC=1OC(OC1)=O | C4H3BrO3
reactant | benzenethiol | 0.7 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-phenylthiomethyl-1,3-dioxol-2-one | 0.7 g | C1(=CC=CC=C1)SCC=1OC(OC1)=O | C10H8O3S
